US06864277B2
A) 1-Bromo-2-benzyloxybenzene
A mixture of 35 g of 1-bromo-2-hydroxybenzene, 30.5 g of benzyl chloride and 50 g of K2CO3 in 500 ml of acetone is refluxed for 12 hours. The reaction mixture is concentrated under vacuum, the residue is taken up in a water/EtOAc mixture, the organic phase is washed with 1N NaOH solution and with water and dried over Na2SO4, and the solvent is evaporated off under vacuum. The resulting oil is distilled under reduced pressure to give 50.3 g of the expected product, b.p.=155° C. at 40 Pa.

reactant | 1-bromo-2-hydroxybenzene | 35 g | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | benzyl chloride | 30.5 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | K2CO3 | 50 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 1-Bromo-2-benzyloxybenzene | 50.3 g | BrC1=C(C=CC=C1)OCC1=CC=CC=C1 | C13H11BrO
